US09371336B2
A 75 mL pressure vessel was charged with ethyl 4-chloro-3-oxo-butyrate (4 g, 24.4 mmol), 3,5-dimethylpyrazin-2-amine (3 g, 24.4 mmol) and 200 proof ethanol (24 mL). After stirring at 100° C. in an oil bath for 16 hours, the reaction mixture was concentrated, diluted with dichloromethane and a saturated sodium bicarbonate solution. The organic layer was separated and the aqueous layer was extracted with dichloromethane twice. The combined organic layers were dried over anhydrous sodium sulfate, filtered, concentrated, and purified on silica gel. Elution with a gradient mixture of dichloromethane and methanol yielded ethyl 2-(6,8-dimethylimidazo[1,2-a]pyrazin-2-yl)acetate as a light brown solid (5 g). MS m/z 234 [M+H]+.

reactant | ethyl 4-chloro-3-oxo-butyrate | 24.4 mmol, 4 g | ClCC(CC(=O)OCC)=O | C6H9ClO3
reactant | 3,5-dimethylpyrazin-2-amine | 24.4 mmol, 3 g | CC=1C(=NC=C(N1)C)N | C6H9N3
solvent | ethanol | 24 mL | C(C)O | C2H6O
product | ethyl 2-(6,8-dimethylimidazo[1,2-a]pyrazin-2-yl)acetate | 5 g | CC=1N=C(C=2N(C1)C=C(N2)CC(=O)OCC)C | C12H15N3O2
